US07482484B2
Step h: ethyl4-(6-hexyl-3-oxoindan-5-yloxy)butyrate
3.6 ml of ethyl4-bromobutyrate dissolved in 15 ml of ethanol are added to a mixture of sodium ethoxide (1.6 g, 0.0233 mol) and 5-hexyl-6-hydroxyindan-1-one (4.5 g, 0.0194 mol) in 45 ml of ethanol. The reaction medium is heated for 5 hours at reflux. The mixture is poured into water and extracted with ether. The organic phase is dried (Na2SO4) and the solvents are evaporated off (5.9 g; 60%).

reactant | ethyl4-bromobutyrate | 3.6 ml | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | sodium ethoxide | 0.0233 mol, 1.6 g | [O-]CC.[Na+]
reactant | 5-hexyl-6-hydroxyindan-1-one | 0.0194 mol, 4.5 g | C(CCCCC)C=1C=C2CCC(C2=CC1O)=O | C15H20O2
reactant | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | ethyl4-(6-hexyl-3-oxoindan-5-yloxy)butyrate | C(C)OC(CCCOC=1C=C2C(CCC2=CC1CCCCCC)=O)=O | C21H30O4
